US08937071B2
To a solution of 3-bromo-5-ethoxypyridine (53 g, 262 mmol) in DCM (200 mL) at 0° C. was slowly added m-CPBA (67.9 g, 393 mmol) over 30 min. After the resulting solution was stirred for 15 h, the mixture was washed with NaS2O3 solution and extracted with DCM (2×300 mL), dried over Na2SO4 and the organic phase was concentrated to give 3-bromo-5-ethoxypyridine 1-oxide (40 g, 165 mmol, 62.9% yield): 1H NMR (400 MHz, CD3OD) δ 8.19-8.18 (m, 1H), 8.08-8.07 (m, 1H), 7.50-7.49 (m, 1H), 4.17-4.15 (d, J=8.8 Hz, 2H), 1.43 (t, J=7.0 Hz, 3H); ES-LCMS m/z 217 (M+H).

reactant | 3-bromo-5-ethoxypyridine | 262 mmol, 53 g | BrC=1C=NC=C(C1)OCC | C7H8BrNO
reactant | m-CPBA | 393 mmol, 67.9 g | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | DCM | 200 mL | C(Cl)Cl | CH2Cl2
product | 3-bromo-5-ethoxypyridine 1-oxide | 165 mmol, 40 g, 62.9% yield | BrC=1C=[N+](C=C(C1)OCC)[O-] | C7H8BrNO2
